US07176310B1
C. [5-(4-Fluorophenylcarbamoyl)pyrimidin-2-yloxy]acetic acid cyclohexyl ester
A mixture of [5-(4-fluorophenylcarbamoyl)pyrimidin-2-yloxy]acetic acid methyl ester (prepared above, 50 mg, 0.17 mmol) and cyclohexanol (51 mg, 0.51 mmol) were slurried in dichloromethane. DMAP (17 mg, 0.14 mmol) was added, and the slurry became homogeneous and colorless. The solution was then treated with 1 M dicyclohexylcarbodiimide (190 μL, 0.19 mmol), which initiated formation of a white slurry within 5 min. After 1 h, thin layer chromatography indicated complete conversion. The reaction was quenched with 10 mL 1 M HCl(aq) and 25 mL dichloromethane. The phases were partitioned, and the aqueous phase extracted with 5 mL dichloromethane. The organic phases were combined and sequentially washed with 10 mL portions of 0.1 M HCl(aq), saturated. NaHCO3(aq) and brine. The organic layer was dried using Na2SO4, filtered and concentrated. The 101 mg of crude product was chromatographed over SiO2 (1:1 ethyl acetate:hexane) to yield 50 mg (79%) of the titled compound. ESI-MS m/z 374 (MH+), 372 (M−H−).

reactant | [5-(4-fluorophenylcarbamoyl)pyrimidin-2-yloxy]acetic acid methyl ester | 0.17 mmol, 50 mg | COC(COC1=NC=C(C=N1)C(NC1=CC=C(C=C1)F)=O)=O | C14H12FN3O4
reactant | cyclohexanol | 0.51 mmol, 51 mg | C1(CCCCC1)O | C6H12O
reactant | dicyclohexylcarbodiimide | 0.19 mmol, 1 M, 190 μL | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | DMAP | 0.14 mmol, 17 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | [5-(4-Fluorophenylcarbamoyl)pyrimidin-2-yloxy]acetic acid cyclohexyl ester | 50 mg, 79% | C1(CCCCC1)OC(COC1=NC=C(C=N1)C(NC1=CC=C(C=C1)F)=O)=O | C19H20FN3O4
